US05602257
The first crop of solid was recrystallized by adding it to about 200 mL of hot isopropyl alcohol and adding 6M HCl slowly to the boiling mixture until all of the solid dissolved (about 5 mL of HCl was added). After cooling the solution in the refrigerator, 3.26 g of anabaseine dihydrochloride was collected (mp 175°-180° C., decomp). Anabaseine dihydrochloride was prepared in 56% overall yield based on the moles of ethyl nicotinate used. Since the dry crystalline solid product is not hygroscopic, but the wet solid may pick up water after filtration, filtration should be performed, for example, under nitrogen atmosphere.

reactant | ethyl nicotinate | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
solvent | water | O | H2O
product | Anabaseine dihydrochloride | C1=CC(=CN=C1)C(=O)CCCCN | C10H14N2O
